US07268230B2
Using an analogous procedure to that described for the preparation of Example 51, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-oxiran-2-ylmethoxy]quinazoline (200 mg, 0.506 mmol), (prepared as described for the starting material in Example 48), was reacted with 1-acetylpiperazine (195 mg, 1.51 mmol) to give 7-{(2R)-3-[4-acetylpiperazin-1-yl]-2-hydroxypropoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (175 mg, 66%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-oxiran-2-ylmethoxy]quinazoline | 0.506 mmol, 200 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1OC1)C | C21H18FN3O4
reactant | 1-acetylpiperazine | 1.51 mmol, 195 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 7-{(2R)-3-[4-acetylpiperazin-1-yl]-2-hydroxypropoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 175 mg, 66% | C(C)(=O)N1CCN(CC1)C[C@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC)O | C27H30FN5O5
